* Ngspice тест: SEN_COND (порт-интерфейс из KiCad)




.INCLUDE spice/SEN_COND.sub
.model MyD D(IS=4.35e-9 RS=0.64 BV=110)
.model TVS24 D(IS=4.35e-9 RS=0.64 BV=8)
.model TVS5 D(IS=4.35e-9 RS=0.64 BV=5.6)
.model SW_GP SW(Ron=0.1 Roff=1Meg Vt=1.5 Vh=0.5)

* Порты: COND_ADC COND_RAW GND
XSEN_COND COND_ADC COND_RAW 0 SEN_COND

VS COND_RAW 0 DC 2.5
.op
* PASS: COND_ADC ~1.6В (делитель 5->3,3)
.control
op
print V(COND_ADC)
run
.endc
.end
